US06858627B2
A mixture of 1.6 g of 6-(2-methoxyphenyl)-2,2,4-trimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester, 20 mL of 1,4-dioxane, and 1.4 g of selenium dioxide was refluxed for half an hour. Another 1.4 g portion of selenium dioxide was added. The reaction was allowed to reflux for 6 hours. The reaction mixture was then filtered through diatomaceous earth and the residue was rinsed with EtOAc. The solvent was evaporated in vacuo and the residue was purified by flash chromatography to yield 1 g of 4-formyl-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester as a solid.

reactant | 6-(2-methoxyphenyl)-2,2,4-trimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 1.6 g | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C)(C)C | C24H29NO3
reactant | selenium dioxide | 1.4 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-formyl-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C=O)(C)C | C24H27NO4
